US06005085
In 10.0 g of tetrahyrofuran, 1.00 g of 2-hydroxy-6-hydroxycarbonyl-3-methoxycarbonylnaphthalene is suspended. To this, 0.94 g of thionyl chloride and a small amount of N,N-dimethylformamide are added, and heated to 50° C. After allowing to proceed the reaction for about 3 hours, the solvent and other volatile are evaporated. To the residue, a solution of 1.27 g of n-decanol dissolved in 10.0 g of tetrahydrofuran is added, and reacted for about 20 hours under reflux. After evaporating the solvent, 15.0 g of N,N-dimethylformamide, 15.0 g of methanol, and 180.0 g of 5% aqueous sodium hydrogencarbonate are added, and reacted for 20 hours at 60° C. After removing insoluble matter, the pH of the reaction mixture is adjusted to pH 2 at 50° C., and the precipitate is recovered by filtration. The product was washed with warm water and methanol, and dried to yield 1.33 g of 2-hydroxy-3-hydroxycarbonyl-6-decyloxycarbonylnaphthalene as a white-yellow powder (melting/decomposing point: 269.2° C. (dec.)).

reactant | 2-hydroxy-6-hydroxycarbonyl-3-methoxycarbonylnaphthalene | 1.00 g | OC1=CC2=CC=C(C=C2C=C1C(=O)OC)C(=O)O | C13H10O5
reactant | thionyl chloride | 0.94 g | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahyrofuran | 10.0 g | O1CCCC1 | C4H8O
product | 2-hydroxy-3-hydroxycarbonyl-6-decyloxycarbonylnaphthalene | 1.33 g | OC1=CC2=CC=C(C=C2C=C1C(=O)O)C(=O)OCCCCCCCCCC | C22H28O5
